US07825260B2
Preparation of 5-(2-iodo-ethyl)-2-phenyl-benzofuran
2-(2-Phenyl-benzofuran-5-yl)ethanol (11.18 g; 46.9 mmol) was dissolved in DCM (170 ml) and N-iodinesuccinimide (NIS; 11.31 g; 50.27 mmol) and triphenylphosphine (15.39 g; 52.67 mmol) was added under stirring. After keeping the reaction mixture at RT over night the reaction was extracted two times with 6% aqueous NaHCO3 solution and the organic layer was dried over Na2SO4. After filtering and removal of the solvent pure title compound was obtained after crystallization from methanol/DCM/cyclo-hexane. The mother liquor was collected and purified on silica gel (cyclohexane/ethylacetate 95/5 as mobile phase).

reactant | 2-(2-Phenyl-benzofuran-5-yl)ethanol | 46.9 mmol, 11.18 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=C(C=C2)CCO | C16H14O2
reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | triphenylphosphine | 52.67 mmol, 15.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 170 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-iodo-ethyl)-2-phenyl-benzofuran | ICCC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C16H13IO
